US06248739B1
A portion of the resulting ethyl 4-hydroxy-8-iodo-3-quinolinecarboxylate (4.01 g) and 4-chlorobenzylamine (20.00 mL) are heated at 180° C. for 1.5 h. The reaction is cooled to room temperature. Ethyl acetate is added, followed by hexanes, and the solid is filtered, washed with hexanes, and dried to give N-(4-chlorobenzyl)-4-hydroxy-8-iodo-3-quinolinecarboxamide (3.98 g).

reactant | ethyl 4-hydroxy-8-iodo-3-quinolinecarboxylate | 4.01 g | OC1=C(C=NC2=C(C=CC=C12)I)C(=O)OCC | C12H10INO3
reactant | 4-chlorobenzylamine | 20.00 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-chlorobenzyl)-4-hydroxy-8-iodo-3-quinolinecarboxamide | 3.98 g | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=CC=C3C2O)I)C=C1 | C17H12ClIN2O2
